US04696694
A mixture comprising 2.8 g of diethyl 5,6,7,8-tetrahydroquinoline-2,3-dicarboxylate, 10 ml of acetic acid and 1.1 ml of a 35% hydrogen peroxide aqueous solution, was stirred at 75° C. for 3 hours under heating. 1.0 ml of a 35% hydrogen peroxide aqueous solution was added thereto, and the mixture was further reacted at 75° C. for 9 hours. After cooling the mixture, water was added thereto, and the mixture was extracted with chloroform. The organic layer was dried, and then the solvent was distilled off to obtain an oily substance. This oily substance was added to 50 ml of acetic anhydride under reflux, and refluxed for 15 minutes. The solvent was distilled off under reduced pressure. Water was added to the residue, and the mixture was extracted with diethyl ether. The organic layer was dried, and then the solvent was distilled off. The residue was purified by column chromatography to obtain 2.3 g (yield: 69%) of diethyl 8-acetoxy-5,6,7,8-tetrahydroquinoline-2,3-dicarboxylate.

reactant | diethyl 5,6,7,8-tetrahydroquinoline-2,3-dicarboxylate | 2.8 g | N1=C(C(=CC=2CCCCC12)C(=O)OCC)C(=O)OCC | C15H19NO4
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
reactant | hydrogen peroxide | OO | H2O2
reactant | acetic anhydride | 50 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | O | H2O
product | diethyl 8-acetoxy-5,6,7,8-tetrahydroquinoline-2,3-dicarboxylate | 2.3 g, yield: 69% | C(C)(=O)OC1CCCC=2C=C(C(=NC12)C(=O)OCC)C(=O)OCC | C17H21NO6
